US07935815B2
Synthesis of (E)-N-[3-(4-chlorophenyl)-2-oxo-tetrahydropyrimidin-1-yl]-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylamide
IPEA (0.65 mL), 1-amino-3-(4-chlorophenyl)tetrahydropyrimidin-2-one (139 mg), EDC (177 mg) and HOBT (125 mg) were added to a solution of (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylic acid (300 mg) in DMF (6 mL) at room temperature. The reaction solution was stirred at room temperature for 24 hours. The reaction solution was diluted with ethyl acetate and washed with a saturated sodium bicarbonate solution and a saturated sodium chloride solution. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane-ethyl acetate system, then ethyl acetate-methanol system) to obtain 287 mg of the title compound. The property value of the compound is as follows.

reactant | IPEA | 0.65 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-amino-3-(4-chlorophenyl)tetrahydropyrimidin-2-one | 139 mg | NN1C(N(CCC1)C1=CC=C(C=C1)Cl)=O | C10H12ClN3O
reactant | HOBT | 125 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylic acid | 300 mg | COC1=C(C=CC(=N1)/C=C/C(=O)O)N1C=NC(=C1)C | C13H13N3O3
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 177 mg
product | (E)-N-[3-(4-chlorophenyl)-2-oxo-tetrahydropyrimidin-1-yl]-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylamide | 287 mg | ClC1=CC=C(C=C1)N1C(N(CCC1)NC(\C=C\C1=NC(=C(C=C1)N1C=NC(=C1)C)OC)=O)=O | C23H23ClN6O3
